US08686007B2
[2-(4-Fluorophenyl)-2-methylpropyl]{3-[(methylethyl)amino](1,2,4-thiadiazol-5-yl)}amine.
3-Chloro-N-(2-(4-fluorophenyl)-2-methylpropyl)-1,2,4-thiadiazol-5-amine (50 mg, 0.18 mmol, 1.0 equiv) and i-PrNH2 (0.5 mL, 5.8 mmol) were loaded into a microwave vial, and the resulting mixture was heated to 110° C. for 30 minutes. The reaction mixture was then concentrated in vacuo. Purification by silica gel (20-30% EtOAc/Hexanes) provided the title compound as an off white solid (55 mg, 99%). m/z=309.1 [M+H]+.

reactant | 3-Chloro-N-(2-(4-fluorophenyl)-2-methylpropyl)-1,2,4-thiadiazol-5-amine | 0.18 mmol, 50 mg, 1.0 equiv | ClC1=NSC(=N1)NCC(C)(C)C1=CC=C(C=C1)F | C12H13ClFN3S
reactant | i-PrNH2 | 5.8 mmol, 0.5 mL | C(C)(C)N | C3H9N
product | [2-(4-Fluorophenyl)-2-methylpropyl]{3-[(methylethyl)amino](1,2,4-thiadiazol-5-yl)}amine | FC1=CC=C(C=C1)C(CNC1=NC(=NS1)NC(C)C)(C)C | C15H21FN4S
